US06194409B1
96a. 3-tert.-Butoxycarbonylmethylsulfanyl-2-(R)-ethoxycarbonylamino-3-methyl-butyric acid
NaH (0.81 g; 35.2 mmol) was added in portions to 40 ml, ethanol while cooling. Subsequently D-penicillamine (2.50 g) was added. The mixture kept stirring for 5 minutes at 5° C., after which bromoacetic acid tert.-butyl ester (2.55 mL) was added. The mixture was allowed to stir 16 h at ambient temperature and subsequently hydrolyzed with 2 N HCl. The solvents were distilled off, N the residue was redissolved in 50 mL of water and 50 mL of dioxane and pH 9.5 was adjusted by adding aqueous NaOH. Ethyl chloroformate (2.1 mL) was slowly added at 5° C. while maintaining pH 9.5 by addition of the appropriate amount of aqueous NaOH. Stirring was continued for 6 h at room temperature. Aqueous NaOH was added (pH 10) and the dioxane removed in vacuo followed by extraction of the remaining aqueous solution with ethyl acetate. KHSO4 was added and the acidified aqueous solution extracted with ethyl acetate several times. Evaporation of the solvent in vacuo gave a colorless oil, which was purified by HPLC (RP-18; pH 2.3; H2OCH3OH 3/7) to give 0.86 g (15%) of the title compound as a colorless oil. (+)-APCI-MS: 358 (MNa+).

reactant | NaH | 35.2 mmol, 0.81 g | [H-].[Na+]
reactant | D-penicillamine | 2.50 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | bromoacetic acid tert.-butyl ester | 2.55 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | HCl | 2 N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 3-tert.-Butoxycarbonylmethylsulfanyl-2-(R)-ethoxycarbonylamino-3-methyl-butyric acid | 0.86 g, 15% | C(C)(C)(C)OC(=O)CSC([C@@H](C(=O)O)NC(=O)OCC)(C)C | C14H25NO6S
